US05547962
A suspension of 27.0 g of 2,4,5-trifluoro-3-methyl-6-nitrobenzoic acid, 19.5 ml of oxalyl chloride and a few drops of N,N-dimethylformamide in 270 ml of methylene chloride was stirred at room temperature for 2 hours. The reaction mixture was evaporated to give 2,4,5-trifluoro-3-methyl-6-nitrobenzoyl chloride. Separately hand, to a suspension of 3.08 g of magnesium and a few drops of carbon tetrachloride in 6.4 ml of absolute ethanol, a solution of 19.2 ml of diethyl malonate in 12 ml of absolute ethanol was added dropwisely at 50° C. and then stirred at room temperature for 1.5 hours. The reaction mixture was evaporated, dissolved in toluene and then, evaporated again. To a solution of this residue in 30 ml of toluene, a solution of 2,4,5-trifluoro-3-methyl-6-nitrobenzoyl chloride prepared above in 30 ml of toluene was added dropwise under ice cooling. After 2 hours at room temperature, 100 ml of 5% sulfuric acid was added to the reaction mixture and the resulting solution was extracted with diethyl ether. The combined organic extracts were washed with brine, dried and evaporated to give 47.3 g of the desired compound as brown oil.

reactant | 2,4,5-trifluoro-3-methyl-6-nitrobenzoic acid | 27.0 g | FC1=C(C(=O)O)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C8H4F3NO4
reactant | oxalyl chloride | 19.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 270 ml | C(Cl)Cl | CH2Cl2
product | 2,4,5-trifluoro-3-methyl-6-nitrobenzoyl chloride | FC1=C(C(=O)Cl)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C8H3ClF3NO3
